US06815528B2
1-(N,N-Dimethylcarbamyl)-2-(4-methoxybenzoyl)hydrazine:
Synthesis and isolation were same as for 1-acetyl-2-benzoylhydrazine, using 1.8 g (10.8 mmol) of 4-methoxybenzoylhydrazine, 1.2 g (11.1 mmol) of (CH3)2NCOCl, and 1.1 g of TEA. Yield was 1.5 g (59%). MS (EI, m/e) calcd for C11H15N3O3 237, found 237 (M+, 8.3); mp 218-220° C.

reactant | 1-acetyl-2-benzoylhydrazine | C(C)(=O)NNC(C1=CC=CC=C1)=O | C9H10N2O2
reactant | 4-methoxybenzoylhydrazine | 10.8 mmol, 1.8 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | (CH3)2NCOCl | 11.1 mmol, 1.2 g | N(C)(C)C(=O)Cl | C3H6ClNO
product | 1-(N,N-Dimethylcarbamyl)-2-(4-methoxybenzoyl)hydrazine | CN(C(=O)NNC(C1=CC=C(C=C1)OC)=O)C | C11H15N3O3
